### ISSUE TITLE
Proof obligation for `IsCoupling.bind` in `src/Bluebell/ProbabilityTheory/Coupling.lean`

### ISSUE THREAD

**Issue by alexanderlhicks** [Verified-zkEVM/iris-lean#107]
A proof in `src/Bluebell/ProbabilityTheory/Coupling.lean` contains a `sorry`.

**🤖 AI Analysis:**
### Statement Explanation
This theorem, `IsCoupling.bind`, establishes a fundamental composition rule for couplings of subprobability mass functions (`SPMF`). It states that if you have a coupling `c` between distributions `p` and `q`, and for every pair of values `(a₁, a₂)` sampled from `c` with non-zero probability, you have another coupling `d a₁ a₂` between the resulting distributions `f a₁` and `g a₂`, then you can construct a new coupling for the sequentially composed distributions `p >>= f` and `q >>= g`.

The goal is to prove that the new distribution, formed by first sampling `(a₁, a₂)` from `c.1` and then sampling from `d a₁ a₂`, is indeed a valid coupling. The `sorry` you are at is for the first part of this proof: showing that the first marginal of this composed distribution equals `p >>= f`.

- **Hypotheses**:
    - `c`: A `Coupling` of `p : SPMF α₁` and `q : SPMF α₂`.
    - `d`: A function that provides a coupling `d a₁ a₂` for `f a₁` and `g a₂`.
    - `h`: A proof that `d a₁ a₂` is a valid coupling for `f a₁` and `g a₂`, but only for those pairs `(a₁, a₂)` that are in the support of `c.1`.
- **Goal**:
    - You need to prove `Prod.fst <$> (c.1 >>= λ p => d p.1 p.2) = p >>= f`.

### Context
This theorem is a cornerstone for reasoning about probabilistic programs, particularly in the style of Probabilistic Relational Hoare Logic (pRHL). `SPMF` models probabilistic computations that may not terminate (represented by `none`), and this theorem provides the rule for sequential composition (`>>=`, i.e., monadic bind).

It connects the concept of `IsCoupling` with the monadic structure of `SPMF`. The theorem `IsCoupling.exists_bind` is a direct user-facing consequence of this one, abstracting away the need to construct the coupling `d` explicitly. This pattern is common in formal verification, where a complex constructive theorem (`IsCoupling.bind`) underpins a more abstract existential one (`IsCoupling.exists_bind`).

### Proof Suggestion
The current proof state after `simp [← hc₁]` is `Prod.fst <$> (c.1 >>= ...) = (Prod.fst <$> c.1) >>= f`. The tactic sequence `congr; funext` is too strong because it attempts to prove an unconditional equality of functions, whereas your hypothesis `h` is conditional on `(a₁, a₂)` being in the support of `c`.

Here is a more robust approach:

1.  **Simplify using monad laws**: Use `simp` with monad laws for `SPMF` (which is an `OptionT PMF`). Key lemmas are related to `map` and `bind`, such as `Functor.map_bind` and `Bind.bind_map_comm`. Your goal should transform into an equality between two binds on the same `SPMF` `c.1`:
    ```lean
    c.1 >>= (λ p => Prod.fst <$> d p.1 p.2) = c.1 >>= (λ p => f p.1)
    ```
2.  **Prove equality by extensionality**: Instead of `congr`, use the `ext y` tactic to prove that the two `SPMF`s are equal by showing they yield the same probability for any outcome `y : Option β₁`.
3.  **Unfold definitions**: The goal will be an equality of two real numbers. Use `simp` with `bind_eq_pmf_bind` and `PMF.bind_apply` to expand both sides into their definitions as `tsum` (infinite sum) expressions over the outcomes of `c.1`.
4.  **Term-wise equality**: Use `tsum_congr` to prove the equality of the two summations. This changes the goal to proving that the corresponding terms of the sums are equal for every possible outcome `x : Option (α₁ × α₂)`.
5.  **Case analysis on support**: The terms of the sum involve `c.1 x`. Use `by_cases h_support : c.1.1 x = 0`.
    - If `h_support` is true, both sides of the term equality become `0`. You can use `rw [h_support, zero_mul]`.
    - If `h_support` is false (the non-zero case for `x = some (a₁, a₂)`), this is where your hypothesis `h` becomes applicable. The condition `c.1.1 (some (a₁, a₂)) ≠ 0` will be satisfied. The first component of the `IsCoupling` instance from `h`, i.e., `(h a₁ a₂ h_support).1`, gives you `Prod.fst <$> d a₁ a₂ = f a₁`. This equality is exactly what you need to show the non-zero parts of the terms are equal, thus concluding the proof.

**Goal:** Replace the `sorry` with a complete proof.

[Link to the sorry on GitHub](https://github.com/Verified-zkEVM/iris-lean/blob/master/src/Bluebell/ProbabilityTheory/Coupling.lean#L101)

**Code Snippet:**
```lean
theorem IsCoupling.bind {α₁ α₂ β₁ β₂ : Type u}
    {p : SPMF α₁} {q : SPMF α₂} {f : α₁ → SPMF β₁} {g : α₂ → SPMF β₂}
    (c : Coupling p q) (d : (a₁ : α₁) → (a₂ : α₂) → SPMF (β₁ × β₂))
    (h : ∀ (a₁ : α₁) (a₂ : α₂), c.1.1 (some (a₁, a₂)) ≠ 0 → IsCoupling (d a₁ a₂) (f a₁) (g a₂)) :
    IsCoupling (c.1 >>= λ (p : α₁ × α₂) => d p.1 p.2) (p >>= f) (q >>= g) := by
  obtain ⟨hc₁, hc₂⟩ := c.2
  constructor
  · simp [← hc₁]; congr; funext ⟨a₁, a₂⟩; have := h a₁ a₂; sorry

```
